US04207327
4-Chloro-N-phenyl-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide.
To a solution of 10 g. (0.0525 mole) of 1,2-dimethyl-4-anilinopyrazolidine in 50 ml. of chloroform was added with stirring 9.15 g. (0.0525 mole) of p-chlorobenzoyl chloride with the temperature not exceeding 50° C. On completion of addition the solution was refluxed for one hour, cooled to room temperature and extracted with dilute sodium hydroxide. The chloroform layer was dried over sodium sulfate and concentrated at reduced pressure to give an oil which crystallized upon cooling. The solid was recrystallized twice from ligroin. Yield 13.1 g. (76%); m.p. 104°-108° C.

reactant | 1,2-dimethyl-4-anilinopyrazolidine | 0.0525 mole | CN1N(CC(C1)NC1=CC=CC=C1)C | C11H17N3
reactant | p-chlorobenzoyl chloride | 0.0525 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-N-phenyl-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide | ClC1=CC=C(C(=O)N(C2CN(N(C2)C)C)C2=CC=CC=C2)C=C1 | C18H20ClN3O
